Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
thrombocytopenia 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man on PrEP with a recent perforated appendicitis 
and
had been readmitted for colitis of the ascending colon and 
insufficient antiobiotic coverage based on updated sensitivity
data. He had been discharged on ___nd on
appropriate antiobitic coverage. On clinic follow-up ___, he
was noted to have platelets of 10, repeat 17 (301 at discharge).
He did not feel unwell and had stable vitals at that time. He
only noted fatigue, mild blurry vision at night, and a rash
beginning ___. He also reported mild epistaxis at night. He
denied blood in stools or urine, bleeding from gums, or 
bruising.
He reported good appetite, normal BMs, no urinary problems, no
fever/chills, no nausea/vomiting, and otherwise felt improved.
 
Past Medical History:
HLD
 
Social History:
___
Family History:
no fam hx of colon CA or IBD

 
Physical Exam:
Admission: 
Vitals: ___ Temp: 97.8 PO BP: 120/71 HR: 80 RR: 18 O2
sat: 98% O2 delivery: Ra 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: non-blanching purpuric lesions scattered on bilateral lower
extremities, nontender, no ___ edema, ___ warm and well perfused

Discharge:

Vitals: Temp: 97.8 PO BP: 124/71 L Lying HR: 71 RR: 18 O2 sat: 
99% O2 delivery: Ra  
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: no ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 02:50PM BLOOD WBC-7.0 RBC-4.22* Hgb-13.7 Hct-40.9 
MCV-97 MCH-32.5* MCHC-33.5 RDW-14.0 RDWSD-50.6* Plt Ct-17*
___ 06:26AM BLOOD WBC-6.0 RBC-3.62* Hgb-11.8* Hct-35.4* 
MCV-98 MCH-32.6* MCHC-33.3 RDW-14.0 RDWSD-50.1* Plt Ct-45*
___ 07:00AM BLOOD WBC-8.1 RBC-3.55* Hgb-11.7* Hct-34.9* 
MCV-98 MCH-33.0* MCHC-33.5 RDW-13.7 RDWSD-49.6* Plt ___
___ 06:26AM BLOOD Glucose-95 UreaN-17 Creat-1.2 Na-142 
K-4.8 Cl-102 HCO3-28 AnGap-12
___ 07:00AM BLOOD Glucose-95 UreaN-11 Creat-1.0 Na-139 
K-4.4 Cl-100 HCO3-24 AnGap-15
___ 02:50PM BLOOD ALT-177* AST-86* AlkPhos-162* TotBili-0.4
___ 06:26AM BLOOD ALT-142* AST-69* LD(LDH)-261* AlkPhos-117 
TotBili-0.3
___ 06:26AM BLOOD Albumin-4.0 Calcium-9.0 Phos-5.4* Mg-2.4
___ 07:00AM BLOOD Calcium-8.8 Phos-4.2 Mg-2.___ year old man on PrEP with a recent perforated appendicitis 
and
had been readmitted for colitis of the ascending colon and 
insufficient antiobiotic coverage based on updated sensitivity
data. He had been discharged on ___nd on
appropriate antiobitic coverage. On clinic follow-up ___, he
was noted to have platelets of 10, repeat 17 (301 at discharge).
He did not feel unwell and had stable vitals at that time. He
only noted fatigue, mild blurry vision at night, and a rash
beginning ___. He also reported mild epistaxis at night.

He was directly admitted from clinic for monitoring and repeat 
lab work. The Infectious disease team and Hematology were 
consulted for evaluation of his thrombocytopenia. Infectious 
disease believed that his anti-biotic regimen may be the 
etiology of his thrombocytopenia, but since his previous 
infection had been resolved they did not feel he would need any 
further antibiotics. 

Hematology also evaluated the patient and believed that the most 
likely etiology is medication induced thrombocytopenia from his 
antibiotic regimen. They also considered autoimmune 
thrombocytopenia, or pseudo-thrombocytopenia. They recommended 
continuing to monitor his platelet count and if it continued to 
trend in the right direction he would be appropriate for 
discharge with follow up and a repeat CBC. 

On the morning of discharge the patient continued to show 
improvement in his platelet number (___). He was tolerating a 
regular diet, was in no pain, was independently ambulatory. He 
was given appropriate follow up appointments as well as a 
laboratory requisition for follow up CBC and electrolytes which 
should be collected ___ days following discharge per hematology 
recommendations. The patient expressed good understanding of 
these instructions and was discharged home in good condition. 
 
Medications on Admission:
FEXOFENADINE - fexofenadine 180 mg tablet. 1 Tablet(s) by mouth  

 once a day as needed for allergies  
 SIMVASTATIN - simvastatin 20 mg tablet. 1 Tablet(s) by mouth 
once  
 a day    
 truvada (for PrEP)  

 
Discharge Medications:
1.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
2.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with a rash on your thighs and a low platelet count. Your 
antibiotics were stopped and your repeat platelet counts are 
gradually improving. Hematology service was consulted and felt 
your low platelets were caused by the antibiotics you were 
taking. Fortunately the platelet count is quickly increasing now 
that you have stopped taking antibiotics. You should have your 
blood work checked again in ___ days (early next week is fine). 
You are medically clear for discharge home. 

You are now doing better, tolerating a regular diet, and your 
blood counts are improving. You are now ready to be discharged 
to home to continue your recovery.

Please follow up in the Acute Care Surgery Clinic to discuss 
further operative planning. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

 
Followup Instructions:
___